US07396836B2
4-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-2-pyridinecarboxyamide
A suspension of 5-(2-fluoro-4-pyridyl)-4-(2-furyl)-2-pyrimidinylamine (300 mg, 1.17 mmol) and sodium cyanide in dimethylsulfoxide (3 ml) was stirred at 150° C. for 46 hours. After cooling as it was, the reaction mixture was diluted with ethyl acetate and washed with an aqueous solution of saturated ammonium chloride twice. The resulting organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was subjected to silica gel plate (developing solvent; dichloromethane:methanol=10:1) and then washed with diethyl ether, to give the title compound (10 mg, 3%) as a colorless solid.

reactant | 5-(2-fluoro-4-pyridyl)-4-(2-furyl)-2-pyrimidinylamine | 1.17 mmol, 300 mg | FC1=NC=CC(=C1)C=1C(=NC(=NC1)N)C=1OC=CC1 | C13H9FN4O
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 4-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-2-pyridinecarboxyamide | 10 mg, 3% | NC1=NC=C(C(=N1)C=1OC=CC1)C1=CC(=NC=C1)CC(=O)N | C15H13N5O2
